US07553845B2
Synthesis of methyl [6-(benzyloxy)-2-methylindolizin-1-yl]carboxylate
This compound is obtained according to the same procedure as the compound of Preparation III using the Tschitschibabin reaction, starting with 19 g of methyl 2-[5-(benzyloxy)pyridin-2-yl]acetate [according to Bull. Pol. Acad. Sci. Chem.; (1990), 38(1-12), 17-27] and chloroacetone. 15.01 g of an orange-coloured solid are obtained.

reactant | methyl 2-[5-(benzyloxy)pyridin-2-yl]acetate | 19 g | C(C1=CC=CC=C1)OC=1C=CC(=NC1)CC(=O)OC | C15H15NO3
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
product | methyl [6-(benzyloxy)-2-methylindolizin-1-yl]carboxylate | 15.01 g, Yield: 69% | C(C1=CC=CC=C1)OC1=CN2C=C(C(=C2C=C1)C(=O)OC)C | C18H17NO3
